US05665718
14.4 g (0.0466 mol) of 7-chloro-8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamide was suspended in 60 ml of dioxan and 8 ml of pyridine and treated dropwise at a temperature of ~8° within 10 min. with 10.3 g (0.049 mol) of trifluoroacetic anhydride. The mixture was stirred at 50° for 3 hours and poured into 400 ml of water. The mixture was extracted with ethyl acetate, dried over magnesium sulfate, filtered and the filtrate was concentrated. The residue was dissolved in 300 ml of hot ethyl acetate, the solution was suction filtered over 100 g of silica gel, the silica gel was rinsed with 200 ml of ethyl acetate and the filtrate was evaporated. There were obtained 12 g (89%) of 7-chloro-8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carbonitrile as light yellowish crystals; m.p. 221°-223°.

reactant | 7-chloro-8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamide | 0.0466 mol, 14.4 g | ClC1=C(C=CC2=C1C(N(CC=1N2C=NC1C(=O)N)C)=O)F | C13H10ClFN4O2
reactant | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 0.049 mol, 10.3 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 400 ml | O | H2O
solvent | dioxan | 60 ml | O1CCOCC1 | C4H8O2
product | 7-chloro-8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carbonitrile | 12 g, 89% | ClC1=C(C=CC2=C1C(N(CC=1N2C=NC1C#N)C)=O)F | C13H8ClFN4O
